data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-C(F)(F)F_2-C_3-C(F)(F)F_4-C_5-c1ccccc1_6-C_7-C","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(C)[Si](C)(C)C","C(=O)(C)C","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(C)C(O)(C)C"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(C)C","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(C(F)(F)F)(C)[C+](C(F)(F)F)C(C)(c1ccccc1)C(O[Ti](Cl)(Cl)Cl)(C)C","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(C)C(O[Ti](Cl)(Cl)Cl)(C)C","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)c1ccccc1)(C(F)(F)F)C(C(F)(F)F)(C)C(O)(C)C","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-122_1-C(=O)c1ccccc1_2-C(=O)N(C)C_3-C=C_4-C(C)(C)C","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(C=C)C(C)(C)C","C(C(=O)c1ccccc1)C(=O)N(C)C"],"products_smiles": ["C(=C(C(=O)c1ccccc1)C(=O)N(C)C)(C=C)C(C)(C)C"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(C=C)C(C)(C)C","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)c1ccccc1)C(=O)N(C)C","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)c1ccccc1–C(=O)N(C)C methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(C=C)C(C)(C)C)(C(=O)c1ccccc1)C(=O)N(C)C","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(C=C)C(C)(C)C)(C(=O)c1ccccc1)C(=O)N(C)C","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)c1ccccc1)C(=O)N(C)C)(C=C)C(C)(C)C","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
